US06451816B1
4-{1-[bis(2-chlorophenyl)-methyl]-piperidin-4-yl}-butyronitrile
20 g (106 mmol) 4-(3-cyanoprop-1-yl)-piperidin hydrochloride, 40.2 g (127 mmol) bis(2-chlorophenyl)-bromomethane and 35.2 g (254 mmol) potassium carbonate are heated to boiling in 90 ml acetone for six hours. After cooling, the mixture is freed from solution under vacuum. The residue is dispersed between 90 ml tolueneand 90 ml water. The aqueous phase is extracted with 10 ml tolueneand the combined organic phases are washed with 10 ml water. The organic phase is concentrated and the residue is chromatographically purified over silica gel with CHCL3. Yield: 11.2 g (27%).

reactant | 4-(3-cyanoprop-1-yl)-piperidin hydrochloride | 106 mmol, 20 g | Cl.C(#N)CCCC1CCNCC1
reactant | bis(2-chlorophenyl)-bromomethane | 127 mmol, 40.2 g | ClC1=C(C=CC=C1)C(Br)C1=C(C=CC=C1)Cl | C13H9BrCl2
reactant | potassium carbonate | 254 mmol, 35.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 90 ml | O | H2O
solvent | acetone | 90 ml | CC(=O)C | C3H6O
product | 4-{1-[bis(2-chlorophenyl)-methyl]-piperidin-4-yl}-butyronitrile | ClC1=C(C=CC=C1)C(N1CCC(CC1)CCCC#N)C1=C(C=CC=C1)Cl | C22H24Cl2N2
